Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Victoza / metformin
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
___: Cardiac Catheterization, DES to LCx

 
History of Present Illness:
___ with PMHx of CAD, sCHF (EF 40-45%), hypertension, 
hyperlipidemia, and diabetes, recently admitted for for flash 
pulmonary edema c/b NSTEMI (found to have thrombosis in RCA 
stent s/p DES), who presents with acute SOB.

Patient was recently admitted to ___ from ___ - ___ for 
worsening SOB, and was found to have been fluid overloaded - was 
diuresed aggressively (for net negative >5L for LOS). During 
stay, trop-T acutely elevated, so patient underwent LHC on 
___, which revealed diffuse LCX disease (up to 85% 
stenosis), and 99% in-stent stenosis of ostial RCA s/p DES 
(final stenosis of 0%). Post-procedurally, pt did well, and her 
SOB resolved. At discharge, weight was 98.5kg. Of note, upon 
discharge, pt's carvedilol, quinapril and torsemide were 
decreased in the setting of soft blood pressures. 

Patient was recently seen by cardiologist, Dr. ___, on 
___, at which time BP was 122/62 and torsemide was increased 
from 5 mg to 10 mg qd. The patient was then seen by PCP (Dr. 
___ at 13:00 today, at which point she was doing well. 
Afterwards, while lying down at home at 15:00, she acutely 
became dyspneic (no exertional component); EMS was called and 
found patient to be hypertensive 180/130, tachypneic into ___, 
O2 sat in ___ per EMS. Denied CP, medication noncompliance, ___ 
edema. Was placed on biPAP, and awas found to be doing better 
when she arrived to the ED. 

In the ED, patient continued on BiPAP, given SL nitro, and 
started on nitroglycerin drip, which improved dyspnea as well as 
blood pressure (180/130 -> SBP 110s). Work of breathing improved 
in ED course, but did not tolerate off-bipap trial. Given 40 mg 
iv lasix, which she put out 600 cc urine so far. Also got 324 mg 
aspirin and 15u levemir now.

Notable labs include: 
- WBC 11.9 (7.0 on ___
- BUN/Cr 38/1.9 (33/1.5 on ___
- Trop-T 0.21 (2.99 on ___
- CKMB 5 (19 on ___
- BNP 4802 (5769 on ___
- VBG 7.___
- UA Clean

Patient admitted to CCU for diuresis and biPAP. 

On arriaval to CCU, initial VS were: 119/63  106  25  99% BIPAP 
(40% FiO2 PEEP 5).
 
Past Medical History:
- Type 2 diabetes  
- Hypertension
- CAD: 
* NSTEMI in ___: stent to mid-LAD, stents to ___ RCA
* Clean coronaries on ___
* NSTEMI in ___: pressure wire of LCX, DES to mid-RCA
* NSTEMI in ___: diffuse LCX disease up to 85% stenosis, 99% 
in-stent stenosis of ostial RCA s/p ___    
- ___  
- Psoriatic Arthritis  
- Asthma  
- Paget disease of the nipple in ___, s/p resection of 
nipple-areolar complex and radiation treatments  
- Cholecystectomy  
- Mild transaminitis and u/s consistent with NASH in ___
 
Social History:
___
Family History:
Father suffered his first myocardial infarction at the age of 
___. He died from a myocardial infarction at the age of ___. Her 
mother had a pacemaker inserted at the age of ___ and died at the 
age of 88.
 
Physical Exam:
EXAM ON ADMISSION:

VS: 119/63  106  25  99% BIPAP (40% FiO2 PEEP 5)
Gen: awake, alert, NAD, comfortably responding to questions, 
pleasant mood
HEENT: PERRLA, EOMI (with exception of R convergence) 
NECK: unable to appreciate JVP ___ body habitus
CV: soft heart sounds, RRR, no m/r/g appreciated 
LUNGS: mild inspiratory crackles at bilateral bases, no 
wheezing/rhonchi
ABD: soft, bs normoactive, nontender
EXT: no significant pitting edema in feet
PULSES: 2+ radials bilaterally, 1+ DPs bilaterally 
SKIN: warm to touch
NEURO: CN ___ intact (aside from decreased convergence in R 
eye), moves all 4 extremities with purpose

EXAM ON DISCHARGE:

VS: T 98.1 BP 140/80, then down to 117/62 after medications, HR 
90, R 18, SaO2 96% on RA, weight 85.6 kg (down from 86.2)
GENERAL: Appears comfortable sitting up in NAD; conversant and 
pleasant speaking in full sentences
NECK: minimally elevated JVP
CV: S1S2 RRR; no appreciable murmurs, rubs, or gallops
RESP: Clear to ausculatation bilaterally; no wheezes, rales, or 
rhonchi
EXT: Trace lower extremity edema; warm
SKIN: R radial wrist without significant hematoma or oozing
 
Pertinent Results:
LABS ON ADMISSION:

___ 05:25PM BLOOD WBC-11.9* RBC-3.55* Hgb-10.7* Hct-34.0* 
MCV-96 MCH-30.2 MCHC-31.5 RDW-14.5 Plt ___
___ 05:25PM BLOOD Neuts-84.7* Lymphs-8.2* Monos-3.5 Eos-3.1 
Baso-0.5
___ 05:32PM BLOOD ___ PTT-27.1 ___
___ 05:32PM BLOOD ___
___ 05:25PM BLOOD UreaN-38* Creat-1.9*
___ 05:25PM BLOOD CK-MB-5 cTropnT-0.21* proBNP-4802*
___ 05:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:39PM BLOOD ___ pO2-61* pCO2-60* pH-7.26* 
calTCO2-28 Base XS--1
___ 05:35PM BLOOD Glucose-295* Lactate-4.5* Na-140 K-5.6* 
Cl-102 calHCO3-22
___ 05:35PM BLOOD Hgb-11.3* calcHCT-34 O2 Sat-72 COHgb-4 
MetHgb-0

PERTINENT LABS:
___ 02:15AM BLOOD CK-MB-18* MB Indx-6.9* cTropnT-0.53*
___ 09:48AM BLOOD CK-MB-19* cTropnT-0.78*
___ 03:25PM BLOOD CK-MB-17* cTropnT-0.78*
___ 04:47AM BLOOD CK-MB-12* cTropnT-0.91*
___ 08:50PM BLOOD cTropnT-1.07*
___ 05:27AM BLOOD CK-MB-10 MB Indx-6.6* cTropnT-0.97*
___ 02:15AM BLOOD ALT-66* AST-73* LD(LDH)-347* CK(CPK)-261* 
AlkPhos-132* TotBili-0.2
___ 04:47AM BLOOD ALT-74* AST-63* LD(LDH)-391* AlkPhos-110* 
TotBili-0.4

DISCHARGE LABS:

___ 06:55AM BLOOD WBC-11.4* RBC-3.03* Hgb-9.1* Hct-28.0* 
MCV-92 MCH-30.2 MCHC-32.7 RDW-14.4 Plt ___
___ 02:15AM BLOOD Neuts-86.4* Lymphs-7.9* Monos-4.3 Eos-1.0 
Baso-0.4
___ 06:55AM BLOOD Glucose-196* UreaN-64* Creat-1.7* Na-140 
K-4.2 Cl-97 HCO3-29 AnGap-18
___ 06:55AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.2
 
IMAGING:
CXR ___:
No pleural effusion or definite pulmonary edema.  Patchy right 
basilar opacity
may be due to prominent vascular structures but infection or 
aspiration not
excluded.

CXR ___:
No evidence of interval change

EKG:
___:
Sinus tachycardia. Left bundle-branch block. Compared to the 
previous tracing
of ___ heart rate is increased. Otherwise, no diagnostic 
change.
TRACING #1

 IntervalsAxes
___
___

MICRO: 
Blood Cultures ___: No growth
Sputum Culture ___: Commensal Respiratory Flora

CARDIAC CATH (___): 
- LEFT dominant
- LMCA: without significant disease
- LAD: minor non obstructive disease
- LCX: diffuse disease up to 90% stenosis, s/p ___
- ___: not visualized in light of renal disease and increased 
contrast load required 

 
Brief Hospital Course:
___ with PMHx of CAD, systolic heart failure (EF 40-45%), 
hypertension, hyperlipidemia, and diabetes, recently admitted 
for for flash pulmonary edema c/b NSTEMI (found to have 
thrombosis in RCA stent, s/p DES), who presented with acute 
dyspnea secondary to decompensated heart failure. Patient 
required ICU level of care with BIPAP, diuresed with IV lasix 
with improvement in respiratory status. Course complicated by 
type II NSTEMI, thought ischemia triggering heart failure 
exacerbations, now s/p DES to LCX. Patient was transitioned to 
oral diuretics with continued stable respiratory status. 

ACUTE MEDICAL ISSUES: 

#) ACUTE SYSTOLIC DECOMPENSATED HEART FAILURE (LVEF 35% on 
___: 
Patient with recent episode of flash pulmonary edema presenting 
with acute dyspnea and signs of volume overload on exam, 
elevated BNP 4802. Patient's coronary artery disease (LCx lesion 
up to 90% stenosis) and ischemic MR likely contributing to flash 
pulmonary edema. Patient initially required BIPAP and ICU level 
of care. Respiratory status improved with IV lasix (80mg) for 
diuresis. Additionally, patient underwent cardiac 
catheterization with DES to LCx. Patient transitioned to 
torsemide 40mg PO daily, quinapril 5mg PO daily, carvedilol 
6.25mg PO BID. Patient was breathing comfortably on room air on 
day of discharge, weight 85.6 kg

#) CAD, Type II NSTEMI: 
2-vessel (LCX and RCA disease), with LCX up to 90% stenosis, and 
RCA recently found to have in-stent stenosis now s/p DES on 
___. 
Patient presented with shortness of breath which has been 
previous anginal equivalent. EKG without ischemic changes, 
troponin elevated to peak 1.07, MB 19 concerning for demand 
ischemia in setting of decompensated heart failure. It also 
seems that ischemia may be trigger for patient's flash pulmonary 
edema. Patient underwent cardiac catheterization ___ with DES 
to LCx. RCA was not visualized during this catheterization as to 
avoid excess contrast exposure in patient with acute kidney 
injury. Patient continued on aspirin, statin, plavix, home dose 
carvedilol, and quinapril 5mg PO daily.  

#) Moderate MR: 
At least moderate mitral regurgitation per ECHO from ___. 
Etiology unclear, possibly from ischemic disease. LV cavity size 
appears normal, so less likely functional cause. Patient will 
need to follow up with outpatient cardiologist for further 
evaluation and potential treatment of mitral regurgitation. 

# Hypertension: 
Patient had soft blood pressures during recent hospitalization, 
and patient stated that her BPs over the last week have been low 
(120s). However, when found by EMS, patient had BP 180/130. 
Medication non-compliance unlikely. Acute hypertensive episode 
possibly related to acute anxiety/dyspnea and heart failure 
exacerbation. Patient resumed on home carvedilol 6.25 mg PO/NG 
BID, low dose quinapril 5mg PO daily. 

# Acute Kidney Injury: 
Cr 1.9 on admission (baseline 1.3 as of ___.  Possibly 
related to medications - patient taking 20 mg quinapril daily 
(instead of taking 5 mg daily), or due to torsemide that was 
recently increased from 5 mg to 10 mg daily. Additionally 
consider poor renal perfusion in setting of decompensated heart 
failure exacerbation. Started low dose  quinapril, 5 mg daily - 
as benefit from ACEi important in cardiac recovery. Will need to 
consider uptitrating quinapril if able as outpatient. Cr on 
discharge 1.7.  

# Dry cough / Rhinorrhea:
Patient symptoms thought to be viral prodrome as patient was 
afebrile and without productive cough making pneumonia unlikely. 
Blood and sputum cultures with no growth. As chest xray showed 
patchy R basilar opacity and white blood count rising, would 
continue to monitor clinically, if fevers or worsening symptoms 
consider treatment for pneumonia. At this time will treat 
patient symptomatically with benzonatate for cough. 

CHRONIC MEDICAL ISSUES:

# Diabetes: 
Treated with home dose 12U Lantus with additional humalog 
insulin sliding scale while inpatient.

# Hypothyroidism:
Continued home levothyroxine Sodium 125 mcg PO/NG DAILY 

===================
TRANSITIONAL ISSUES:
===================

[] Patient will need f/u with cardiology in 1 week. Please 
monitor BP as well as check chem-10 and weight given changes in 
medication regimen and elevated Cr (1.7 on discharge)

[ ] consider uptitrating quinopril (5mg on discharge) as 
tolerated by renal function and blood pressures 

[] weight on discharge: 85.6 kg

MEDICATION CHANGES:
[] Torsemide increased to 40 mg daily
[] Quinapril decreased to 5 mg daily

# CODE STATUS: Full (confirmed)
# CONTACT: ___ / ___ (___) 
 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Carvedilol 6.25 mg PO BID 
7. Quinapril 20 mg PO DAILY (patient was taking 20 mg qd, 
despite being written for 5 mg qd) 
8. Torsemide 10 mg PO DAILY 
9. Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Carvedilol 6.25 mg PO BID 
4. Clopidogrel 75 mg PO DAILY 
5. Glargine 12 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Levothyroxine Sodium 125 mcg PO DAILY 
7. Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
8. Vitamin D 1000 UNIT PO DAILY 
9. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
as needed Disp #*15 Capsule Refills:*0
10. Quinapril 5 mg PO DAILY 
RX *quinapril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY Dx:
-acute on chronic systolic heart failure

SECONDARY Dx:
-Coronary artery disease
-HTN
-HL
-DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your stay at ___. 
You were admitted for shortness of breath and found to have 
pulmonary edema (fluid) in your lungs. This improved with water 
pills. You also had a cardiac catherization and a stent was 
placed to help improve blood flow to your heart. It is very 
important that you take your medication as prescribed and weigh 
yourself daily. Your torsemide dose was increased to 40 mg daily 
and quinapril dose was decreased to 5 mg daily. You will see 
your cardiologist next week. 

Sincerely,
Your ___ team
 
Followup Instructions:
___